US07390830B1
Synthesis of 1-(3-acetylamino-4-hydroxybenzyl)-4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine (Compd. No. 2148).
A 4 M dioxane solution of HCl (0.50 mL) was added to a methanol (1 mL) solution of the 1-(3-acetylamino-4-hydroxybenzyl)-4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine obtained above, and the resulting solution was stirred at room temperature overnight and concentrated. The resulting residue was then dissolved in methanol, loaded onto a Varian™ SCX column, washed with methanol (5 mL×2), eluted with a 2 M methanol solution of NH3 (5 mL), concentrated and then purified by preparative TLC (SiO2, ethyl acetate/methanol=3:2) to thereby afford 1-(3-acetylamino-4-hydroxybenzyl)-4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine (Compd. No. 2148) (2.3 mg, 9.2%). The purity was determined by RPLC/MS (98%). ESI/MS m/e 490.3 (M++H, C24H29F2N5O4).

reactant | dioxane | 4 M | O1CCOCC1 | C4H8O2
reactant | HCl | 0.50 mL | Cl | ClH
reactant | 1-(3-acetylamino-4-hydroxybenzyl)-4-[[N-(2-(tert-butoxycarbonylamino)-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine | C(C)(=O)NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)NC(=O)OC(C)(C)C)=O)=O)C=CC1O | C29H37F2N5O6
solvent | methanol | 1 mL | CO | CH4O
product | 1-(3-acetylamino-4-hydroxybenzyl)-4-[[N-(2-amino-4,5-difluorobenzoyl)glycyl]aminomethyl]piperidine | C(C)(=O)NC=1C=C(CN2CCC(CC2)CNC(CNC(C2=C(C=C(C(=C2)F)F)N)=O)=O)C=CC1O | C24H29F2N5O4
